US03962259
Treatment of 3-hydroxy-3-(α-hydroxy-2-tolyl)-1-methylpyrrolidine with hydrochloric acid by the method described in Example 16d provides 1,3-dihydro-1'-methylspiro[isobenzofuran-1,3'-pyrrolidine].

reactant | 3-hydroxy-3-(α-hydroxy-2-tolyl)-1-methylpyrrolidine | OC1(CN(CC1)C)C1=C(C=CC=C1)CO | C12H17NO2
reactant | hydrochloric acid | Cl | ClH
product | 1,3-dihydro-1'-methylspiro[isobenzofuran-1,3'-pyrrolidine] | CN1CC2(CC1)OCC1=CC=CC=C12 | C12H15NO
